US06706709B2
3-[5-(2-Dimethylamino-ethoxy)-1H-indol-2-ylmethylene]-1,3-dihydro-indol-2-one
A mixture of oxindole (28 mg, 0.216 mmol), 5-(2-dimethylamino-ethoxy)-1H-indole-2-carbaldehyde (50 mg, 0.21 mmol) and piperidine (0.1 mL) in ethanol (1 mL) was heated at 100° C. for 2 hours. The precipitate was collected by vacuum filtration, washed with ethanol and dried to give 59 mg (79%) of the title compound as an orange solid.

reactant | oxindole | 0.216 mmol, 28 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | 5-(2-dimethylamino-ethoxy)-1H-indole-2-carbaldehyde | 0.21 mmol, 50 mg | CN(CCOC=1C=C2C=C(NC2=CC1)C=O)C | C13H16N2O2
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 3-[5-(2-Dimethylamino-ethoxy)-1H-indol-2-ylmethylene]-1,3-dihydro-indol-2-one | 59 mg, 79% | CN(CCOC=1C=C2C=C(NC2=CC1)C=C1C(NC2=CC=CC=C12)=O)C | C21H21N3O2
